Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine / nitrofurantoin 
/ Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
altered mental status 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ pmh HTN, HLD, DMII, CKD, C. diff and h/o tongue cancer who 
presents to the ED with AMS. The history is obtained from her 
daughter who she lives with. She states in the past 4 days she 
has had waxing and waning confusion where she is slow to 
respond, confused. Other times she is more lucid and acts like 
her normal self; has had waxing/waning. She has not been taking 
her meds, including her insulin, and she has not been eating. 
She has been complaining of pain with urination. She was 
recently diagnosed with a UTI and treated with nitrofurantoin 
but discontinued due to rash on bilateral upper extremities 1.5 
weeks ago. She has issues with recurrent UTI secondary to 
urethral stricture.  
In the ED, initial vitals were: 0 98.3 76 144/56 16 98%  
- Labs were significant for WBC 15.6, Na 125 (corrects to 134), 
gluc 670 with no anion gap, Cr 1.8 (baseline ___, lactate 
2.1, floridly positive UA.  
- The patient was given 250ml NS, regular insulin 20 units; 
glucose improved to 480, and ceftriaxone 1gram.  
Vitals prior to transfer were: 0 98.3 91 133/55 18 96% RA  
Upon arrival to the floor, pt has no complaints and states she 
feels "good." Much of the history is gathered from her daughter. 
 

 
Past Medical History:
DM2
HTN
Hyperlipidemia
Depression
Anxiety
Iron deficiency anemia
GERD
Chronic back pain
Insomnia
Tongue cancer, sees specialist at ___
H/o stomach ulcers
 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer

 
Physical Exam:
================
ADMISSION EXAM
================
Vitals: 98.1 137/60 91 18 100% RA  
General: Alert, oriented to ___, self, ___, president. 
no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated  
CV: normal rate and regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, moving all extremities equally, gait 
deferred.  

================
DISCHARGE EXAM
================
Vitals: 99.1  85  110s-130s/40s  18  95% on RA
General: Pleasant elderly ___ woman in no distress. 
Alert, oriented x3
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated  
CV: normal rate and regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, moving all extremities equally, gait 
deferred.  

 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 07:20PM BLOOD WBC-15.6*# RBC-4.49 Hgb-13.8 Hct-41.8 
MCV-93 MCH-30.8 MCHC-33.1 RDW-13.1 Plt ___
___ 07:20PM BLOOD Neuts-87.0* Lymphs-6.3* Monos-6.3 Eos-0.3 
Baso-0.1
___ 07:20PM BLOOD Glucose-670* UreaN-47* Creat-1.8* Na-125* 
K-4.9 Cl-87* HCO3-26 AnGap-17
___ 06:10AM BLOOD Calcium-10.2 Phos-2.6* Mg-1.7
___ 07:29PM BLOOD Lactate-2.1*
=================
MICROBIOLOGY
=================
___ 10:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
=================
IMAGING
=================
CXR ___ 
 IMPRESSION: No acute intrathoracic process 

=================
DISCHARGE LABS
=================
___ 05:49AM BLOOD WBC-9.6 RBC-4.03* Hgb-12.5 Hct-36.6 
MCV-91 MCH-31.0 MCHC-34.1 RDW-13.8 Plt ___
___ 05:49AM BLOOD Glucose-69* UreaN-14 Creat-1.2* Na-143 
K-3.8 Cl-109* HCO3-22 AnGap-16
___ 05:49AM BLOOD Calcium-9.4 Phos-2.7 Mg-1.___ with HTN, HLD, DMII, CKD, h/o tongue cancer presenting with 
encephalopathy and UTI, ___, marked hyperglycemia. Her 
encephalopathy was attributed to infection and hyperglycemia, 
and resolved. Her acute renal failure improved with fluids. She 
grew >100,000 pansensitive E. Coli in her urine, and will be 
treated with a 7 day total course of antibiotics (last day 
___. On presentation her blood sugar was very highly 
elevated. She was seen by ___, with changes made to her 
insulin regimen. She also met with the diabetes educator. 

==============
ACUTE ISSUES
==============
#UTI: Pt with leukocytosis, dysuria, and pyuria, and history of 
recurrent UTI. She is predisposed to UTIs due to labial fusion 
causing obstruction of her urethra. SHe grew pansensitive E. 
Coli. She was started on TMP/SMX SS 1 tab BID (___) for 
planned 7 day course. (decreased dose due to renal function with 
GFR ~30). At discharge her home methenemine and vaginal estrogen 
cream were restarted. Suppressive antibiotics were deferred 
given concern for the risk of infections with more resistant 
organisms.     

#DM2: Poorly controlled with recent A1c of 12% (___). She 
presented this admission with hyperglycemia to 600s in setting 
of medication noncompliance due to delirium. She was followed by 
___ with titration of her insulin regimen. Her basal insulin 
was decreased to detemir 25u, but bolus insulin was increased. 
She was seen by the diabetes educator with an interpreter. She 
should follow-up with ___ as an outpatient. 

#Toxic metabolic Encephalopathy: likely ___ UTI, hyperglycemia. 
She greatly improved with treatment of her underlying conditions 
and returned to her baseline. 

#Acute kidney injury: most likely ___ hypovolemia in setting of 
infection, low PO intake, and osmotic diuresis due to 
hyperglycemia. Her Cr peaked at 1.8. She improved with fluids, 
and her creatinine at discharge was 1.2, from her baseline 
creatinine of 1. 

==============
CHRONIC ISSUES
============== 
#HTN: cont home propranolol 20mg po bid, amlodipine 10mg po 
daily

#HLD: cont home atorvastatin 20mg po daily 

#GERD: cont home omeprazole ___ po daily, ranitidine 150mg po 
daily  

#Anxiety/Depression: cont buspirone 10mg po tid, paroxetine 40mg 
po daily

==============
TRANSITIONAL ISSUES
==============
-Continue on Sulfameth/Trimethoprim SS 1 TAB PO/NG BID for 7 day 
course. Last day is ___
-Pt should f/u with ___ clinic
-Insulin dosing was changed - see medication sheet
# CODE STATUS: DNR/DNI 
# CONTACT: ___ (daughter) Emergency Contact ___ 
states children have copy of HCP 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Detemir 33 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
2. BusPIRone 10 mg PO TID 
3. Amlodipine 10 mg PO DAILY 
4. Clotrimazole Cream 1 Appl TP BID 
5. Propranolol 20 mg PO BID 
6. Docusate Sodium 100 mg PO DAILY:PRN constipation 
7. Estrogens Conjugated 1 gm VG QWEEK 
8. Ranitidine 150 mg PO DAILY 
9. Atorvastatin 20 mg PO QPM 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. albuterol sulfate 90 mcg/actuation inhalation q6h: prn SOB, 
wheeze 
14. Paroxetine 40 mg PO DAILY 
15. methenamine hippurate 1 gram oral BID 
16. Cyanocobalamin 1000 mcg PO DAILY 
17. Ascorbic Acid ___ mg PO BID 
18. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Ascorbic Acid ___ mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. BusPIRone 10 mg PO TID 
5. Clotrimazole Cream 1 Appl TP BID 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Paroxetine 40 mg PO DAILY 
11. Propranolol 20 mg PO BID 
12. Ranitidine 150 mg PO DAILY 
13. Sulfameth/Trimethoprim SS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth twice a day Disp #*7 Tablet Refills:*0
14. albuterol sulfate 90 mcg/actuation INHALATION Q6H: PRN SOB, 
wheeze 
15. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
16. Docusate Sodium 100 mg PO DAILY:PRN constipation 
17. Estrogens Conjugated 1 gm VG QWEEK 
18. Methenamine Hippurate 1 gram ORAL BID 
19. detemir 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Complicated UTI
-Acute kidney injury on chronic kidney disease

SECONDARY DIAGNOSIS:
-Uncontrolled diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ 
because you had a urinary tract infection. You were treated with 
antibiotics, and you should continue taking these through 
___.

Your blood sugars were also very high. We had the diabetes team 
see you and change your insulin regimen a little bit.

Please keep your follow-up appointment with your primary care 
doctor.

We wish you all the best!
-Your ___ Team
 
Followup Instructions:
___